US06399636B2
To a solution of n-BuLi (22 mL of a 2.5M solution in hexane, 55 mmol) in anhydrous ether (60 mL) at −78° C. was slowly added a solution of thiazole (3.94 g, 46 mmol) in anhydrous ether (30 mL). The resulting mixture was stirred for 1 h and then cyclohexanone (9.6 mL, 93 mmol) in ether (25 mL) was added over 5 min. The mixture was stirred for 2.5 h at −78° C. and then sat. aq. NH4Cl was added and the phases were separated. The aqueous phase was extracted with ethyl acetate (3×) and the combined organics were washed with water, brine, dried (MgSO4) and concentrated. Flash chromatography of the residue (silica gel; hexane/ethyl acetate 4:1 to 7:3) provided the 2-[(1-Hydroxy)cyclohexyl]thiazole compound (5.8 g).

reactant | n-BuLi | [Li]CCCC
reactant | thiazole | 46 mmol, 3.94 g | S1C=NC=C1 | C3H3NS
reactant | cyclohexanone | 93 mmol, 9.6 mL | C1(CCCCC1)=O | C6H10O
reactant | NH4Cl | [NH4+].[Cl-]
solvent | hexane | CCCCCC | C6H14
solvent | ether | 60 mL | CCOCC | C4H10O
solvent | ether | 30 mL | CCOCC | C4H10O
solvent | ether | 25 mL | CCOCC | C4H10O
product | 2-[(1-Hydroxy)cyclohexyl]thiazole | 5.8 g | OC1(CCCCC1)C=1SC=CN1 | C9H13NOS
